US04920133
A mixture of 1 g of ethyl [5-(4-(3-(2-quinolinylmethyloxy)phenethyl)phenyl)tetrazol-3-yl]acetate in 5 ml ethanol and 40 ml of 1N NaOH is stirred at 70° C. for 4 hours. This is cooled, diluted with water, acidified with acetic acid, filtered, washed with water, and then ethyl acetate to give 5-(4-(3-(2-quinolinylmethyloxy)phenethyl)phenyl)tetrazol-3-yl acetic acid.

reactant | ethyl [5-(4-(3-(2-quinolinylmethyloxy)phenethyl)phenyl)tetrazol-3-yl]acetate | 1 g | N1=C(C=CC2=CC=CC=C12)COC=1C=C(CCC2=CC=C(C=C2)C2=NN(N=N2)CC(=O)OCC)C=CC1 | C29H27N5O3
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | ethanol | 5 ml | C(C)O | C2H6O
solvent | NaOH | 1N, 40 ml | [OH-].[Na+]
solvent | water | O | H2O
product | 5-(4-(3-(2-quinolinylmethyloxy)phenethyl)phenyl)tetrazol-3-yl acetic acid | N1=C(C=CC2=CC=CC=C12)COC=1C=C(CCC2=CC=C(C=C2)C2=NN(N=N2)CC(=O)O)C=CC1 | C27H23N5O3
